US04746678
22.3 g (0.1 mole) of 9,10-phenanthrene-dione-9-oxime are reacted with 12 ml (0.11 mole) of n-butyl isocyanate in 100 ml of chloroform in the presence of 0.2 ml of triethyl amine for an hour. The reaction mixture is heated to boiling for half an hour and evaporated in vacuo. Thus 32 g of 9,10-phenanthrene-dione-9-(n-butyl-aminocarbonyl)-oxime are obtained in the form of a yellowish brown oil, yield 99%.

reactant | 9,10-phenanthrene-dione-9-oxime | 0.1 mole, 22.3 g | C1=CC=CC=2C3=CC=CC=C3C(C(C12)=O)=NO | C14H9NO2
reactant | n-butyl isocyanate | 0.11 mole, 12 ml | C(CCC)N=C=O | C5H9NO
reactant | triethyl amine | 0.2 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 9,10-phenanthrene-dione-9-(n-butyl-aminocarbonyl)-oxime | 32 g, yield 99% | C(CCC)NC(=O)ON=C1C2=CC=CC=C2C=2C=CC=CC2C1=O | C19H18N2O3
